US05972978
1-Chloromethylnaphthalene (5.00 ml, 33 mmol) was dissolved in N,N'-dimethylformamide (50 ml) and potassium cyanide (4.31 g, 66 mmol) and potassium iodide (0.1 g) were added and the resulting mixture was stirred at room temperature for 16 hours. The reaction mixture was partitioned between water (150 ml) and diethyl ether (2-100 ml). The combined organic phases were washed with water (100 ml), dried (MgSO4), filtered and concentrated in vacuo affording 5.41 g (98%) of 1-naphtylacetonitrile as an oil.

reactant | 1-Chloromethylnaphthalene | 33 mmol, 5.00 ml | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | potassium cyanide | 66 mmol, 4.31 g | [C-]#N.[K+]
solvent | N,N'-dimethylformamide | 50 ml | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 0.1 g | [I-].[K+]
product | 1-naphtylacetonitrile | 5.41 g, 98% | C1(=CC=CC2=CC=CC=C12)CC#N | C12H9N
